US05246958
To a 10 ml tetrahydrofuran solution containing 1.00 g (6 mmole) of 4-chlorophenylmethylbenzylcyanide was added a 3.2 ml tetrahydrofuran solution containing 2 M of lithium diisopropylamide at -60° C. After stirring for 30 minutes under the same conditions, a 5 ml tetrahydrofuran solution containing 0.44 g (6 mmol) of methyl isothiocyanate was added to the mixture and the mixture was allowed to stand at room temperature overnight. The solvent was removed from the reaction mixture under reduced pressure and water was added to the residue. The mixture was extracted with 50 ml of ethyl acetate, dried and condensed under reduced pressure, and then purified by silica gel chromatography and recrystallized from hexane to obtain 0.45 g (yield: 31.4 %) of N-methyl-2-(4-chlorophenyl)-2-cyano-thiopropionamide.

reactant | 4-chlorophenylmethylbenzylcyanide | 6 mmole, 1.00 g | ClC1=CC=C(C(CC2=CC=CC=C2)C#N)C=C1 | C15H12ClN
reactant | lithium diisopropylamide | 2 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl isothiocyanate | 6 mmol, 0.44 g | CN=C=S | C2H3NS
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-methyl-2-(4-chlorophenyl)-2-cyano-thiopropionamide | 0.45 g, yield: 31.4 % | CNC(C(C)(C#N)C1=CC=C(C=C1)Cl)=S | C11H11ClN2S
